US05254687
To a solution of guanidine free base (prepared from 105 mg of guanidine hydrochloride and 60 mg of sodium ethoxide) in 10 mL of anhydrous ethanol are added 284 mg (1 mmol) of ethyl 4-[2-(2-amino-3-cyanofur-4-yl)ethyl]benzoate. The mixture is heated at reflux for 30 hrs and the solvent then evaporated in vacuo. The residue is chromatographed on silica gel, eluting with 5:95 methanol:methylene chloride, to yield ethyl 4-{2-(2,4-diaminopyrrolo[2,3-d]pyrimidin-5-yl)ethyl}benzoate as a light brown solid; m.p. 202°-204° C. Mass spectrograph calculated for C17H19N5O2 : 325.1538, Found: 325.1543.

reactant | guanidine | 105 mg | NC(=N)N | CH5N3
reactant | ethyl 4-[2-(2-amino-3-cyanofur-4-yl)ethyl]benzoate | 1 mmol, 284 mg | NC=1OC=C(C1C#N)CCC1=CC=C(C(=O)OCC)C=C1 | C16H16N2O3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 4-{2-(2,4-diaminopyrrolo[2,3-d]pyrimidin-5-yl)ethyl}benzoate | NC1=NC(=C2C(N1)=NC=C2CCC2=CC=C(C(=O)OCC)C=C2)N | C17H19N5O2
